US04192944
Preparation 9: Ethyl 2-Cyano-3-(5-phenyl-2-pyridylamino)acrylate
A mixture of 2-amino-5-phenylpyridine (1.19 g., 6.99 mmoles) and ethyl ethoxymethylenecyanoacetate (1.18 g., 6.99 mmoles) was fused at an oil bath temperature of 100° for 15 minutes. The product was recrystallized from toluene to give the title compound (1.3 g.), m.p. 126°-134°. An additional crop of product (0.3 g.), m.p. 119°-126° was obtained from the mother liquors. Total yield of product, 1.6 g. (78%).

reactant | 2-amino-5-phenylpyridine | 6.99 mmoles, 1.19 g | NC1=NC=C(C=C1)C1=CC=CC=C1 | C11H10N2
reactant | ethyl ethoxymethylenecyanoacetate | 6.99 mmoles, 1.18 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
product | Ethyl 2-Cyano-3-(5-phenyl-2-pyridylamino)acrylate | 1.3 g | C(#N)C(C(=O)OCC)=CNC1=NC=C(C=C1)C1=CC=CC=C1 | C17H15N3O2
